US04041079
In 5 volume parts of water is dissolved 0.200 part of 3,4-dihydro-2-methylamino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide and, using 0.050 part of platinum dioxide, the catalytic reduction is carried out in a current of hydrogen gas until a substantially stoichiometric amount of hydrogen gas is absorbed. The catalyst in the reaction mixture is filtered off and to the filtrate is added a mixture of ethyl ether, methanol and water. The procedure gives white prisms of 2-methylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide. Melting point: 165° to 169° C.(decomp.)

reactant | hydrogen | [H][H] | H2
reactant | 3,4-dihydro-2-methylamino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide | Br.CNC1C(C2=CC=C(C(=C2CC1)O)O)=O
solvent | water | O | H2O
catalyst | platinum dioxide | [Pt](=O)=O
product | 2-methylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.CNC1C(C2=CC=C(C(=C2CC1)O)O)O | InChI=1S/C11H15NO3.BrH/c1-12-8-4-2-7-6(10(8)14)3-5-9(13)11(7)15;/h3,5,8,10,12-15H,2,4H2,1H3;1H
